Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
keflex,  / Flagyl
 
Attending: ___.
 
Chief Complaint:
elevated ___ at home
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: ___ G6P2 with h/o poorly controlled T1DM admitted for
glycemic control. After missing her ___ appointment, she was
contacted by ___ and ___ and recommended direct
admission. She reports that she has been trying to eat
appropriately, but this is made difficult by her history of
gastroparesis. Her AM FSBG was in the high 200s today, which she
reports has been normal lately, with occasional values in the
300s. She denies polyuria or polydipsia. 

On evaluation here, she denies ctx, VB, LOF. Endorses active
fetal movement. 

ROS: Denies fevers/chills or recent illness. Denies HA, vision
changes. Denies chest pain/shortness of breath/palpitations. 
Denies abdominal pain. Denies recent falls or abdominal trauma. 
Denies any unusual foods/undercooked foods, nausea, vomiting, 
diarrhea. 

PNC: 
  - ___ ___ by LMP (___)
  - Labs Rh pos/Abs neg/Rub I/RPR NR/HBsAg neg/HIV neg /GBS unk
  - Screening NA
  - FFS NA
  - GLT NA
  - Issues:
*) poorly controlled T1DM 
*) h/o 2 prior LTCS 
*) h/o chronic HTN 
 
Past Medical History:
OBHx: G6P2
- LTCS x2
- ___: LTCS at ___. 
- ___: Repeat low transverse cesarean 
- TAB x3

GynHx:
- denies abnormal Pap, fibroids, Gyn surgery, STIs

PMH: 
- T1DM: On insulin since age ___. Currently on Lantus BID and
Humalog with meals. She has associated retinopathy and
gastorparesis. She has chronic constipation 
- CHTN
- Sickle cell trait
- Depression: h/o suicide ideation in ___. 
 
PSH: 
- C-section x ___
- ___ foot surgery x 2 
- ___ Abdominal panniculectomy for Necrotizing gas-forming 
infection of the abdominal wall.
- ___ Debridement washout of abdominal wound from necrotizing
fasciitis with VAC sponge application.
- ___ Wound washout, tissue debridement and wound closure.
- cataract surgery
- D&C x3
 
Social History:
denies T/E/D. 
 
Physical Exam:
 Physical Exam on Discharge:  
 CONSTITUTIONAL: normal  
 HEENT: normal, MMM  
 NEURO: alert, appropriate, oriented x 4  
 RESP: no increased WOB  
 HEART: extremities warm and well perfused  
 ABDOMEN: gravid, non-tender  
 EXTREMITIES: non-tender, no edema  
 FHR: present at a normal rate  
 
Pertinent Results:
___ 11:42AM BLOOD WBC-9.2 RBC-3.18* Hgb-8.3* Hct-25.1* 
MCV-79* MCH-26.1 MCHC-33.1 RDW-17.8* RDWSD-51.6* Plt ___
___ 08:30PM BLOOD WBC-9.5 RBC-3.38* Hgb-8.6* Hct-26.1* 
MCV-77* MCH-25.4* MCHC-33.0 RDW-17.8* RDWSD-50.2* Plt ___
___ 07:10PM BLOOD WBC-9.7 RBC-3.42* Hgb-8.4* Hct-26.0* 
MCV-76* MCH-24.6* MCHC-32.3 RDW-18.2* RDWSD-50.2* Plt ___
___ 08:30PM BLOOD Neuts-61.4 ___ Monos-5.1 Eos-0.3* 
Baso-0.2 Im ___ AbsNeut-5.84 AbsLymp-3.11 AbsMono-0.49 
AbsEos-0.03* AbsBaso-0.02
___ 11:42AM BLOOD ___ PTT-27.5 ___
___ 11:42AM BLOOD ___
___ 11:42AM BLOOD Glucose-120* UreaN-8 Creat-0.8 Na-136 
K-4.3 Cl-95* HCO3-24 AnGap-17
___ 08:30PM BLOOD Glucose-103* UreaN-9 Creat-0.7 Na-137 
K-4.0 Cl-96 HCO3-25 AnGap-16
___ 07:10PM BLOOD Glucose-177* UreaN-17 Creat-1.0 Na-131* 
K-4.5 Cl-92* HCO3-24 AnGap-15
___ 11:42AM BLOOD ALT-20 AST-24
___ 08:30PM BLOOD ALT-17 AST-15 TotBili-0.3
___ 11:42AM BLOOD Lipase-26
___ 11:42AM BLOOD cTropnT-<0.01
___ 11:42AM BLOOD Calcium-10.1 Phos-3.4 Mg-1.9
___ 08:30PM BLOOD Calcium-10.5* Phos-4.3 Mg-1.8
___ 07:10PM BLOOD Calcium-9.7 Phos-3.9 Mg-1.9
___ 07:10PM BLOOD VitB12-449 Folate->20
___ 07:10PM BLOOD %HbA1c-8.9* eAG-209*
___ 08:30PM BLOOD ___ pH-7.42
___ 08:30PM BLOOD freeCa-1.22
___ 08:53PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 08:53PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-300* Ketone-TR* Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 08:53PM URINE RBC-2 WBC-3 Bacteri-NONE Yeast-NONE Epi-5
___ 08:53PM URINE CastHy-23*
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the ___ 
service for glycemic control at 14 weeks and 1 day gestation.  
She was seen by ___ service.  Her HbA1c on admission was 
8.9%.  Electrolytes and urinalysis revealed no evidence of 
diabetic ketoacidosis.  We will also seen by nutrition and 
counseled on the importance of a carb consistent diet.  Her 
blood glucose remained difficult to control given inconsistent 
timing of meals.  She was noted to have intermittent periods of 
hypoglycemia and hyperglycemia. 

She was started on a 81 mg of aspirin for preeclampsia 
prophylaxis.  Given her difficulties with presenting to care, 
she had a blood draw for cell free DNA for genetic screening.  
She was also seen by ophthalmology with stable diabetic 
retinopathy, with recommendation to follow-up with BEI. 

She was continued on Reglan, Zofran, and Pepcid for her history 
of gastroparesis.  He is also started on a bowel regimen for 
constipation.
 
On ___, patient was triggered for an episode of 
acute onset shortness of breath.  Her vitals were noted to be 
within normal limits with appropriate O2 saturation.  A stat EKG 
was performed that was reviewed by cardiology, within normal 
limits.  She also had negative troponin levels drawn.  CBC, 
Chem-7, lipase were all within normal limits.  The patient's 
symptoms resolved spontaneously without intervention.  A CTA was 
deferred given normal vital signs, low suspicion for VTE. 

On ___, the patient was still noted to have 
intermittent episodes of hyperglycemia, however without evidence 
of diabetic ketoacidosis. After extensive counseling, the 
patient was agreeable to outpatient management of her type 1 
diabetes.  She was discharged home on Levemir 34 units in the 
morning, 34 units in the evening.  Is also continued on Humalog 
24 units with breakfast, 16 units with lunch, 24 units at 
dinner.  She was also started on a pre-meal sliding scale.  

 
Medications on Admission:
Insulin
Reglan
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*3 
2.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*90 Tablet Refills:*3 
3.  Humalog 24 Units Breakfast
Humalog 16 Units Lunch
Humalog 22 Units Dinner
Levemir 34 Units Breakfast
Levemir 34 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
4.  Famotidine 20 mg PO BID:PRN nausea, vomiting  
5.  Metoclopramide 10 mg PO QIDACHS  
6.  Ondansetron ___ mg PO Q8H:PRN nausea, vomiting  
7.  Prenatal Vitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Type 1 Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for closer monitoring of your 
blood sugars and adjustment of your insulin. You were seen by 
the nutritionist, endocrinologist as well as the 
ophthalmologist. You are now safe to be discharged home. Please 
follow these instructions:

 - Attend all appointments with your obstetrician and all fetal 
scans  
 - Monitor for the following danger signs:  
 - headache that is not responsive to medication  
 - abdominal pain  
 - increased swelling in your legs  
 - vision changes  
 - Worsening, painful or regular contractions  
 - Vaginal bleeding  
 - Leakage of water or concern that your water broke  
 - Nausea/vomiting  
 - Fever, chills   
 - Other concerns  

Your current insulin regimen is as follows:
- check fasting and 1 hour post meal fingersticks
- Insulin:
     Levemir 34 Am, 34 Pm
     Humalog 24u pre breakfast, 16u pre lunch, 24u pre dinner 
     Premeal correction scale: ___ >150 for B,L,D
     No ___ Correctional scale
     Humalog ___ with snacks. twice daily 
- If you are not eating, hold Humalog fixed dose
- continue Metamucil for constipation 
- follow up or call ___ with your fingerstick values on 
___
- Please keep a log and call in values to ___ on ___. 
 
Followup Instructions:
___